US04559342
A mixture of 9.3 g (0.03 mole) of 7-chloro-1-cyclopropyl-1,4-dihydro-6-nitro-4-oxo-3-quinolinecarboxylic acid and 12.9 g (0.15 mole) of piperazine is warmed to 120° C. in 60 ml of dimethylsulphoxide for 15 minutes. After a short time, a precipitate separates out of the hot solution. The mixture is concentrated under a high vacuum, the residue is stirred with 30 ml of water and the mixture is heated again to 95° C. for 30 minutes. The mixture is adjusted to pH 8 with 2N hydrochloric acid and the precipitate is filtered off with suction and washed with water and methanol. 5.8 g (54% of theory) of 1-cyclopropyl-1,4-dihydro-6-nitro-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylic acid of decomposition point 296° to 298° C. are isolated.

reactant | 7-chloro-1-cyclopropyl-1,4-dihydro-6-nitro-4-oxo-3-quinolinecarboxylic acid | 0.03 mole, 9.3 g | ClC1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)[N+](=O)[O-] | C13H9ClN2O5
reactant | piperazine | 0.15 mole, 12.9 g | N1CCNCC1 | C4H10N2
solvent | dimethylsulphoxide | 60 ml | CS(=O)C | C2H6OS
product | 1-cyclopropyl-1,4-dihydro-6-nitro-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylic acid | 5.8 g, 54% | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CCNCC1)[N+](=O)[O-])=O)C(=O)O | C17H18N4O5
